US05800733
2.9 g of N,N'-dicyclohexylcarbodiimide were added within 5 minutes while stirring to a solution of 3.8 g of 4-formyl-4'-(8-hydroxyoctyloxy)biphenyl, 0.9 g of acrylic acid and 0.05 g of 4-(dimethylamino)pyridine in 25 ml of dichloromethane. The reaction mixture was stirred overnight, filtered and then concentrated. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 8:2) and recrystallization from ethyl alcohol of the fractions which were pure according to thin-layer chromatography gave 2.5 g of 4-formyl-4'-(8-acryloyloxyoctyloxy)biphenyl.

reactant | N,N'-dicyclohexylcarbodiimide | 2.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-formyl-4'-(8-hydroxyoctyloxy)biphenyl | 3.8 g | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCCO | C21H26O3
reactant | acrylic acid | 0.9 g | C(C=C)(=O)O | C3H4O2
catalyst | 4-(dimethylamino)pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-formyl-4'-(8-acryloyloxyoctyloxy)biphenyl | 2.5 g | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCCOC(C=C)=O | C24H28O4
